US07582629B2
tert-Butyl (5-{[4-{[4-(difluoromethoxy)phenyl]amino}-1,1-dioxido-3-oxo-5-phenylisothiazol-2(3H)-yl]methyl}pyridin-2-yl)carbamate
[4-[Difluoromethoxy)phenyl]amine (0.27 g, 1.7 mmol) was added to an ice cold solution of 4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.41 g, 1.7 mmol) in DMF (4 ml) and the mixture was stirred for 1 h. tert-Butyl[5-(bromomethyl)pyridin-2-yl]carbamate (0.48 g, 1.7 mmol) and anhydrous potassium carbonate (0.23 g, 1.7 mmol) were added. The reaction mixture was stirred over night, concentrated and the residue was dissolved in DCM. The mixture was washed with water and concentrated and the residue was purified using preparative HPLC to give the title compound (0.12 g, 13%). 1H NMR (400 MHz, d6-DMSO): δ 1.41 (s, 9H), 3.77 (dd, 2H), 7.22-7.24 (m, 3H), 7.27 (t, 1H), 7.39-7.45 (m, 5H), 7.48 (d, 1H), 7.78 (d, 1H), 7.86 (dd, 2H), 9.57 (s, 1H), 11.18 (s, 1H); Mass Spectrum: M+H+ 573.

reactant | [4-[Difluoromethoxy)phenyl]amine | 1.7 mmol, 0.27 g | FC(OC1=CC=C(C=C1)N)F | C7H7F2NO
reactant | 4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 1.7 mmol, 0.41 g | ClC=1C(NS(C1C1=CC=CC=C1)(=O)=O)=O | C9H6ClNO3S
reactant | tert-Butyl[5-(bromomethyl)pyridin-2-yl]carbamate | 1.7 mmol, 0.48 g | C(C)(C)(C)OC(NC1=NC=C(C=C1)CBr)=O | C11H15BrN2O2
reactant | potassium carbonate | 1.7 mmol, 0.23 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | tert-Butyl (5-{[4-{[4-(difluoromethoxy)phenyl]amino}-1,1-dioxido-3-oxo-5-phenylisothiazol-2(3H)-yl]methyl}pyridin-2-yl)carbamate | 0.12 g, 13% | FC(OC1=CC=C(C=C1)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CC=1C=CC(=NC1)NC(OC(C)(C)C)=O)=O)F | C27H26F2N4O6S
